### PR TITLE
Backport a few lemmas from analysis

### PR DESCRIPTION
**Pull request by proux01**
##### Motivation for this change

Backport a few lemmas from https://github.com/math-comp/analysis/pull/1410

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [ ] ~added corresponding documentation in the headers~
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Review by CohenCyril — CHANGES_REQUESTED** [review]
I suggest the following renamings:
- `comparable_min_le_min` ->  `comparable_le_min2`
- `comparable_max_le_max` ->  `comparable_le_max2`
- `min_le_min` ->  `le_min2`
- `max_le_max` ->  `le_max2`

File: algebra/interval.v [hunk 1]
```diff
@@ -267,6 +267,22 @@ Definition bnd_simp := (BLeft_ltE, BRight_leE,
...
+Lemma comparable_BSide_min s (x y : T) : (x >=< y)%O ->
+  BSide s (Order.min x y) = Order.min (BSide s x) (BSide s y).
+Proof. by rewrite !minEle bnd_simp => /comparable_leP[]. Qed.
+
+Lemma comparable_BSide_max s (x y : T) : (x >=< y)%O ->
+  BSide s (Order.max x y) = Order.max (BSide s x) (BSide s y).
+Proof. by rewrite !maxEle bnd_simp => /comparable_leP[]. Qed.
+
+Lemma BSide_min s (x y : T) : (x >=< y)%O ->
+  BSide s (Order.min x y) = Order.min (BSide s x) (BSide s y).
```
Comment (proux01) [inline algebra/interval.v:279]: I guess this was intended to be
```suggestion
Lemma BSide_min s (x y : T) :
  BSide s (Order.min x y) = Order.min (BSide s x) (BSide s y).
```
with `T : orderType d`

File: ssreflect/order.v [hunk 2]
```diff
@@ -3181,6 +3181,27 @@ Qed.
 
 End Comparable3.
 
+Section Comparable4.
+Context (x y z w : T) (cmp_xy : x >=< y) (cmp_zw : z >=< w).
+
+Lemma comparable_min_le_min : x <= z -> y <= w ->
+  Order.min x y <= Order.min z w.
```
[the remark this answers is not in the document]
Comment (proux01) [reply ssreflect/order.v]: indeed, let's go for `comparable_le_min2`

File: algebra/ssrnum.v [hunk 3]
```diff
@@ -4252,6 +4258,9 @@ Proof. exact: rootC_inj. Qed.
 Lemma sqrtCM : {in Num.nneg &, {morph sqrtC : x y / x * y}}.
 Proof. by move=> x y _; apply: rootCMr. Qed.
 
+Lemma real_sqrtC x : 0 <= x -> sqrtC x \in Num.real.
```
Comment (CohenCyril) [inline algebra/ssrnum.v:4261]:
```suggestion
Lemma sqrtC_real x : 0 <= x -> sqrtC x \in Num.real.
```

Comment (CohenCyril) [reply algebra/ssrnum.v:4261]: (unary predicates are used as suffixes)
